 * PSpice Model Editor - Version 17.4.0
*$
*****************************************************************************
** This product is designed as an aid for customers of Texas Instruments.  **
** No warranties, either expressed or implied, with respect to this third  **
** party software (if any) or with respect to its fitness for any          **
** particular purpose is claimed by Texas Instruments or the author. The   **
** software (if any) is provided solely on an "as is" basis. The entire    **
** risk as to its quality and performance is with the customer             **
*****************************************************************************
* This model was developed by Texas Instruments Incorporated by:
* This model is subject to change without notice. 
* Texas Instruments Incorporatedis not responsible for updating this model.
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.
* Released by: High Voltage Power, Texas Instruments Inc.
* Part: UCC28C53
* Date: 8/04/2022
* Model Type: Transient
* Simulator: PSpice
* Datasheet: SLUSEV2, Jun 2022
*
*****************************************************************************
* Updates:
* Prelim 1.0
* Final Released to Web.
*****************************************************************************
.SUBCKT UCC28C53  COMP   FB   CS   RTCT    GND    OUT   VDD   VREF  
****OSCILLATOR*****
STOF1 8 GND RTCT GND SOSC
GBDISCH RTCT GND Value = { IF ( V(8,GND) < 2.5 & V(VREF,GND) > 4.5, 8.4M, 0 ) }
RPULL 8 VREF 100K
****UVLO***********
STOF2 VDD 19 VDD GND SUVLO
RUVLO 19 GND 1MEG
***CDUMMY 19 GND 0.01p
RSTDBY VDD GND 300K ; startup current 
ROP 10 GND 10000 ; operating current
****REFERENCE*******
EBREF 13 100 Value = { IF ( V(19,GND) > 6, 5, 0 ) }
I_I1  GND 100 DC 45e-3
D_D1  100 GND Dbreak
RREG 10 VREF 0.158
CREF VREF GND 1N
V3 13 10 
***GB6 19 GND Value = { IF ( V(19,GND) > 4 , I(V3) , 0 ) }
GB6 19 GND Value = { IF (V(19,GND) > 4 , IF((I(V3)-I(EMY19))>2,
+2, IF((I(V3)-I(EMY19))<0, 0,(I(V3)-I(EMY19)))), 0 ) }
****CURRENT COMPARATOR*******
EB3 21 GND Value = { IF ( V(CS,GND) > V(16,GND), 5, 0 ) }
R7 CS GND 1MEG
RDELAY 21 22 1K
CDELAY 22 GND 200P
****ERROR AMPLIFIER**********
XAMP VREF FB COMP GND 28C4xAMP
****OFFSET LIMITER***********
R4 12 11 2MEG
R6 11 GND 1MEG
EB2 16 GND Value = { IF ( V(11,GND) > 1, 1, V(11,GND) ) }
V4 COMP 9 1
D1 9 12 D2
****OUTPUT DRIVER************
EMY19 191 GND VALUE = {V(19,GND)} 
***XDRIVE 19 GND 5 OUT FETOUTC4X ; FETOUTC4X 2845OUT 
XDRIVE 191 GND 5 OUT FETOUTC4X ; FETOUTC4X 2845OUT 
****S-R LATCH****************
XLATCH 8 VREF 22 GND 6 7 FFLOPC2
****OUTPUT AND GATE**********
EOut 5 GND Value = { IF ( V(VREF,GND) > 2.5 & V(7,GND) > 
+2.5 & V(8,GND) > 2.5, 5, 0 ) }
.MODEL SOSC VSWITCH (RON=.01 ROFF=1MEG VT=1.45 VH=0.95) ; VT=1.45 set to match 53k @ 3.3n/10k
.MODEL SUVLO VSWITCH (RON=.01 ROFF=5MEG VT=8 VH=0.4)
.MODEL D2 D 
.MODEL Dbreak D( RS=1e-3 N=0.001 )
.ENDS UCC28C53
*$
.SUBCKT 28C4xAMP  4     1    9   20
*                VREF  INV  OUT V-
R1 10 4 100K
R2 10 20 100K
R3 6 20 316MEG
C1 6 20 8.7p ; Bandwidth
E1 5 20 6 20 1
R4 1 20 50MEG ; Input Bias
I2 4 9 1m ; Isource
R6 20 3 300
Q1 20 13 9 QPMOD
I3 13 20 68U 
D14 3 13 DMOD
D15 20 6 DCLAMP
L1 2 3 10U
C2 3 20 200P
R9 5 2 5
C5 2 20 0.02U
G1 20 6 10 1 100U
.MODEL QPMOD PNP BF=217.647 ; sets the Isink current
.MODEL DCLAMP D (RS=10 BV=5.0 IBV=.01) 
.MODEL DMOD D
.ENDS 28C4xAMP
*$
.SUBCKT 2845OUT  4  7  3  12
*                +V -V IN OUT
I3 4 8 100U
D3 8 4 DMOD
D4 12 8 DMOD
Q3 8 1 9 QIN
Q4 12 9 7 QMOD
Q5 4 8 6 QMOD
I4 7 1 .9M
R1 3 2 10K
Q8 1 2 7 QIN
Q2 4 6 12 QMOD2
.MODEL QMOD NPN RC=1.5 RE=.5 RB=100 IKF=0.5 CJC=0.4P
.MODEL QMOD2 NPN TF=400P TR=400P
.MODEL QIN NPN BF=100 BR=2 IS=1E-16 VAF=50 
+ CJE=1.5P CJC=.15P TR=1N TF=4N
.MODEL DMOD D RS=1 IS=0.4U
.ENDS 2845OUT
*$
.SUBCKT FETOUTC4X  Vcc  Gnd In Out
*                  Vcc  -V  IN OUT
* simplify with b element with 5.5 ohms make it stiff vcc and zero
Rm1 Vcc Out 10MEG
M1 Vcc 3 Out Out _NMOS 
Rm2 Out Gnd 10MEG
M2 Gnd 3 Out Out _PMOS 
EB1 2 Out Value= { IF ( V(In,Gnd) > 2 , 5 , -5 ) }
R1 2 3 75
C2 3 Gnd 10p
C3 3 Vcc 10p
R2 3 Gnd 10Meg
.MODEL _NMOS NMOS KP=1 NSUB=1E9 RD=10 VTO=3
.MODEL _PMOS PMOS KP=1 RD=5.5 VTO=-3 NSUB=1E9
.ENDS FETOUTC4X
*$
.SUBCKT FFLOPC2 1  2 11 12 5  6
*              CLK D R  S  QB Q
X1 7 4 2 8 NAND3_0C2 
X2 8 3 10 9 NAND3_0C2 
X3 1 8 10 7 NAND3_1C2 
X4 4 9 1 10 NAND3_0C2 
X5 4 7 6 5 NAND3_1C2 
X6 5 10 3 6 NAND3_0C2 
X7 11 4 INV 
X8 12 3 INV 
.ENDS FFLOPC2
*$
.SUBCKT NAND3_0C2 1 2 3 4
E1 5 0 VALUE = { IF ( (V(1)>800M) & (V(2)>800M) & (V(3)>800M), 0, 5 ) }
R1 5 4 100
C1 4 0 20P IC=0
.ENDS NAND3_0C2 
*$
.SUBCKT NAND3_1C2 1 2 3 4
E1 5 0 VALUE = { IF ( (V(1)>800M) & (V(2)>800M) & (V(3)>800M), 0, 5 ) }
R1 5 4 100
C1 4 0 20P IC=3.5
.ENDS NAND3_1C2 
*$
.SUBCKT INV 1 2
E1 3 0 VALUE = { IF ( V(1)>800mV, 0, 5 ) }
R1 3 2 100
C1 2 0 10P IC=3.5
.ENDS INV
*$
